US04751295
A. 2-Cyano-2-methoxyiminoacetamide
To a stirred mixture of α-cyanoacetamide (252 g, 3 mole) and sodium nitrite (414 g, 6 mole) in water (600 ml) was added acetic acid (371 ml, 10 mole) at 5°-10° C. over 1.5 hours. The mixture was allowed to stir for another 1.5 hours and adjusted to pH 8.5 with 6N NaOH. To the mixture was added dimethyl sulfate (568 ml, 6 mole) at 15°-20° C. and the mixture was stirred at 45° C. for 1.5 hours. The reaction mixture was adjusted to pH 8.5 with 6N NaOH and allowed to stand at 5° C. overnight to separate the precipitate, which was collected by filtration, washed with cold water and air-dried to give 292 g (77%) of the title compound as brown needles melting at 170°-172° C.

reactant | α-cyanoacetamide | 3 mole, 252 g | C(#N)CC(=O)N | C3H4N2O
reactant | sodium nitrite | 6 mole, 414 g | N(=O)[O-].[Na+]
reactant | acetic acid | 10 mole, 371 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | 6N | [OH-].[Na+]
reactant | dimethyl sulfate | 6 mole, 568 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | NaOH | 6N | [OH-].[Na+]
solvent | water | 600 ml | O | H2O
product | 2-Cyano-2-methoxyiminoacetamide | 292 g, 77% | C(#N)C(C(=O)N)=NOC | C4H5N3O2
